* Schematics Netlist *



R_R1         $N_0002 $N_0001  1k  
R_R2         $N_0003 0  950  
X_U1A         $N_0001 $N_0003 $N_0005 0 $N_0004 LM324
R_R3         $N_0005 $N_0003  50  
V_V1         $N_0005 0 5V
R_R6         $N_0007 $N_0006  1k  
R_R7         $N_0008 0  950  
X_U3A         $N_0006 $N_0008 $N_0010 0 $N_0009 LM324
R_R8         $N_0010 $N_0008  50  
V_V2         $N_0010 0 5V
C_C1         0 $N_0001  180uF  
X_U5A         $N_0002 $N_0007 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         $N_0011 $N_0007 $N_0009 $N_0010 $N_0012 $N_0013 $G_DPWR $G_DGND
+  7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V3         $N_0014 0 5V
R_R10         0 $N_0015  10k  
X_U9A         $N_0016 $N_0011 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6A         $N_0014 $N_0016 $N_0017 $N_0014 $N_0015 $N_0018 $G_DPWR $G_DGND
+  7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R5         0 $N_0016  10k  
X_U2A         $N_0019 $N_0002 $N_0004 $N_0005 $N_0016 $N_0020 $G_DPWR $G_DGND
+  7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8A         $N_0012 $N_0019 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R9         0 $N_0012  10k  
X_U7A         $N_0016 $N_0012 $N_0017 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
C_C2         0 $N_0006  3  
U_DSTM1         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0002 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 500ms 1  
+ 700ms 0  
+ 1s 1 
+ 1600ms 0  
